Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R  pec swelling
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ +ETOH, +heroin down for ~14hrs found to have large R chest 
wall hematoma, rhabdo, ___. He reports drinking with friends 
last night as well doing heroine and possibly other drugs 
including meth when he fell on the ground. He does not remember 
the circumstances but was told by friends. He was then laid into 
bed around 10pm. He reports waking up at 4AM with a ringing his 
ears and going back to sleep until 12PM.  When he woke he had 
decreased ranged of motion of his R arm so presented to an OSH.  
There he underwent a NCHCT which was negative and a CT chest 
revealing a large R pectoralis hematoma.  In addition, his 
labratory work was noteable for rhabdyamylosis and ___ (Cr there 
was 1.1). He currently denies any chest pain, SOB, nausea, 
fevers/chills, dysuria.  He reports the swelling has not 
increased in size since this morning.
 
Past Medical History:
PMH: None

PSH: None
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Physical Exam:
98.0 98 117/87 13 99% RA
NAD, slightly lethargic but oriented x3
CN2-12 intact, PERRLA
RRR
Unlabored respirations
Abd soft, non-tender, non-distended
Ext wwp no edema 
R shoulder is swollen w/ some swelling in R pec, the skin does 
not appear tight or at risk of necrosis, mild tenderness to 
palpation, mildly decreased ROM w/ incomplete abduction
RUE w/ palpable pulse

Discharge PE:
VS: T: 98.2, HR: 70, BP: 154/62, RR: 18, O2: 98% RA
General: NAD, AOx3
Cardiovascular: RRR, s1/s2
Pulmonary: CTA b/l
Abdomen: soft, non-distended, non-tender
Extremeties: RUR +2, R chest wall swelling (improving in size)

 
Pertinent Results:
Labs: 
___ 05:55AM BLOOD WBC-5.4 RBC-4.27* Hgb-12.5* Hct-34.8* 
MCV-81* MCH-29.3 MCHC-36.1* RDW-13.9 Plt Ct-93*
___ 05:55AM BLOOD Glucose-90 UreaN-10 Creat-0.9 Na-140 
K-3.9 Cl-106 HCO3-30 AnGap-8
___ 05:50PM BLOOD ALT-1347* AST-1454* ___ 
AlkPhos-59 TotBili-1.0
___ 11:05PM BLOOD ALT-1327* AST-1489* ___ 
AlkPhos-59 TotBili-0.9
___ 06:35AM BLOOD ALT-1224* AST-1295* ___ 
AlkPhos-75 TotBili-1.5
___ 11:57PM BLOOD ___
___ 04:09PM BLOOD ___
___ 11:25PM BLOOD ___
___ 05:55AM BLOOD ALT-712* AST-503* ___ 
AlkPhos-55 TotBili-0.7
___ 06:40AM BLOOD CK(CPK)-9029*
___ 03:24PM BLOOD CK(CPK)-8973*
___ 04:45AM BLOOD CK(CPK)-6781*

Imaging:
CTA Chest
1.  Superior most aspect of chest wall not obtained.  Consider 
dedicated ultrasound or repeat CT scan starting at the level of 
the mid neck including the shoulders for further evaluation, 
especially if there was a proven hematoma on outside imaging.
2.  No evidence of pulmonary embolism or aortic abnormality.
3.  No active extravasation on images obtained.
4.  Chest wall findings are consistent with the stated history 
of rhabdomyolysis with significant anterior chest wall edema, 
edematous expansion of bilateral pectoralis muscles, right 
greater than left, and fluid tracking/interdigitating 
predominantly within the right pectoralis muscle fibers.  No 
chest wall hematoma on the provided images.
5.  Left lower lobe pneumonia or aspiration pneumonia.
6.  Small to moderate right non hemorrhagic pleural effusion 
with right lower
lobe atelectasis.
 
Brief Hospital Course:
Mr. ___ was admitted to the surgical surgery on ___ for 
management ___ secondary to rhabdomyolysis. On admission, his 
CK level was elevated to ___ and Cr 1.8. His LFTs were also 
elevated with AST 1454 and ALT 1347. He was administered 
aggressive IV fluid resuscitation and close urine output 
monitoring with foley. CTA chest was performed showing active 
rhabdomyolysis and chest wall edema, but no evidence of active 
extravasation. Over the next few days, his kidney function 
returned to normal and his LFTs were downtrending. At time of 
discharge, his CK was 6781. We monitoring his right arm closely 
and saw no evidence of worsening swelling throughout his 
hospitalization. At time of discharge, his vital signs were 
stable, he was tolerating a regular diet, he was ambulating, 
voiding without difficulty, and his pain was well controlled. He 
was asked to follow-up in clinic in 2 weeks. 
 
Medications on Admission:
None
 
Discharge Medications:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain  
do NOT drive while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
please hold for loose stools 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
3. Senna 8.6 mg PO BID:PRN constipation 
4. Acetaminophen 650 mg PO Q6H:PRN pain 
do NOT exceed more than 3gm in 24 hours 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right chest wall hematoma, rhabdomyolysis, acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ on ___ after having been 
found down for about 14 hours.  You had a CTA of your chest and 
were found to have a large right chest wall bruise and an acute 
episode of muscle breakdown.  You also had an EKG which showed 
your heart rate to be mildly elevated.  You were admitted to the 
Acute Care Surgery/Trauma team for IV fluid rehydration for your 
muscle breakdown and acute kidney injury as well as for pain 
management and monitoring of your blood laboratory values.  

On ___, you had a concern that your right arm was swollen.  
An ultrasound of your right arm was done which showed there to 
be no clot.  Your muscle breakdown lab values have continued to 
decline, and you tolerated a regular diet and oral pain 
medicine.  You are now medically cleared to be discharged to 
home.  

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.
 
 
Followup Instructions:
___